* G1_T2F joint C-PEX: T=75.0 C, VDDA=3.3 V, VDD=1.2 V, HBT=typ, MOS=tt, R=typ, C=typ, mismatch=True, seed=51005
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ_mismatch
.include bgr.spice
.include t2f.spice
.option seed=51005
.option gmin=1e-15 abstol=1e-13 reltol=1e-4 vntol=1e-6 method=gear
.temp 75.0
.global sub!
Vsub sub! 0 dc 0
Vdd vdd 0 dc 3.3
Vdd12 vdd12 0 dc 1.2
Vr4 r4 0 dc 0
Ven en 0 pwl(0 0 1u 0 1.01u 3.3)
Vmode mode 0 dc 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 dc 1.0
Xt2f vdd vdd12 0 pbias pcasc vref en mode fout g1_t2f
* TEMP_OUT pad stand-in: ~50 fF of core wiring plus the IO cell input
Cout fout 0 50f
.control
set num_threads=1
set filetype=ascii
set numdgt=15
set wr_singlescale
set wr_vecnames
op
print @n.xbgr.xm34.nsg13_hv_nmos[delvto] @n.xbgr.xr16.nr1[nsmm_rsh] @q.xbgr.xq56.qnpn13g2[area] @q.xt2f.xq42.qnpn13g2[area] @c.xt2f.xc1.c1[scale]
tran 5n 32u
print @n.xbgr.xm34.nsg13_hv_nmos[delvto] @n.xbgr.xr16.nr1[nsmm_rsh] @q.xbgr.xq56.qnpn13g2[area] @q.xt2f.xq42.qnpn13g2[area] @c.xt2f.xc1.c1[scale]

meas tran t_a when v(fout)=0.6 rise=8
meas tran t_b when v(fout)=0.6 rise=24
let freq = (24-8)/(t_b-t_a)
print freq
meas tran i33_avg avg i(vdd) from=t_a to=t_b
meas tran i12_avg avg i(vdd12) from=t_a to=t_b
meas tran vref_avg avg v(vref) from=t_a to=t_b
meas tran vth_avg avg v(xt2f.vth) from=t_a to=t_b
meas tran cap1_max max v(xt2f.cap1) from=t_a to=t_b
meas tran fout_hi max v(fout) from=t_a to=t_b
meas tran fout_lo min v(fout) from=t_a to=t_b
meas tran t_half_a trig v(fout) val=0.6 rise=8 targ v(fout) val=0.6 fall=8

wrdata ptat_T75.dat v(fout) v(vref) i(vdd) i(vdd12) v(xt2f.cap1) v(xt2f.cap2) v(xt2f.ca1) v(xt2f.tail1) v(xt2f.cb1) v(xt2f.ca2) v(xt2f.tail2) v(xt2f.cb2)
quit
.endc

.end
